US07183304B2
To a mixture of the title D compound, (R)-1-{4-[3-(4-phenoxy-2-propyl-phenoxy)-propoxy]-benzenesulfonyl}-2,3-dihydro-1H-indole-2-carboxylic acid methyl ester (1.47 g, 2.44 mmol) in methanol (50 mL) under nitrogen at room temperature is added 1N aqueous sodium hydroxide (4.9 mL, 4.9 mmol) dropwise. Upon complete addition, the mixture is stirred at room temperature for 45 minutes, at which time 5 mL of tetrahydrofuran is added to facilitate the dissolution of the starting material. The mixture is stirred overnight. The reaction mixture is concentrated in vacuo, the residue is partitioned between water (50 mL) and ether (50 mL). The aqueous layer is separated and acidified with 1N aqueous hydrochloric acid. The product is extracted into dichloromethane. The extract is washed with brine, dried over anhydrous sodium sulfate (Na2SO4), filtered and concentrated to give 1.02 g of (R)-1-{4-[3-(4-phenoxy-2-propyl-phenoxy)-propoxy]-benzenesulfonyl}-2,3-dihydro-1H-indole-2-carboxylic acid as a white foamy solid. The solid is treated with ethanol (1 mL) which results in dissolution of the solid and upon standing crystals start to form. The crystals are separated and dried at high vacuum at 40° C. to give 0.85 g of pure (R)-1-{4-[3-(4-phenoxy-2-propyl-phenoxy)-propoxy]-benzenesulfonyl}-2,3-dihydro-1H-indole-2-carboxylic acid: [M+1]+=588.46, [M−1]−=586.41.

reactant | (R)-1-{4-[3-(4-phenoxy-2-propyl-phenoxy)-propoxy]-benzenesulfonyl}-2,3-dihydro-1H-indole-2-carboxylic acid methyl ester | 2.44 mmol, 1.47 g | COC(=O)[C@@H]1N(C2=CC=CC=C2C1)S(=O)(=O)C1=CC=C(C=C1)OCCCOC1=C(C=C(C=C1)OC1=CC=CC=C1)CCC | C34H35NO7S
reactant | sodium hydroxide | 4.9 mmol, 1N, 4.9 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | (R)-1-{4-[3-(4-phenoxy-2-propyl-phenoxy)-propoxy]-benzenesulfonyl}-2,3-dihydro-1H-indole-2-carboxylic acid | 1.02 g | O(C1=CC=CC=C1)C1=CC(=C(OCCCOC2=CC=C(C=C2)S(=O)(=O)N2[C@H](CC3=CC=CC=C23)C(=O)O)C=C1)CCC | C33H33NO7S
